US08404709B2
4-(4-Cyano-2-methoxyphenyl)-2,7-dimethyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile
908 mg (5.64 mmol) of 4-formyl-3-methoxybenzonitrile are dissolved with 592 mg (5.64 mmol) of sodium 1-cyanoprop-1-en-2-olate, 700 mg (5.64 mmol) of 4-amino-6-methylpyridin-2(1H)-one [Bisagni, E., Hung, N. C., Synthesis, 765-766 (1984)] and 484 μl (8.46 mmol) of acetic acid in 30 ml of 2-propanol and heated at the reflux temperature under argon for 12 h. After cooling, the reaction mixture is filtered and the remaining solid is washed with diethyl ether (20 ml). 1798 mg (96% of theory) of the title compound are obtained as a white solid.

reactant | 4-formyl-3-methoxybenzonitrile | 5.64 mmol, 908 mg | C(=O)C1=C(C=C(C#N)C=C1)OC | C9H7NO2
reactant | sodium 1-cyanoprop-1-en-2-olate | 5.64 mmol, 592 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 4-amino-6-methylpyridin-2(1H)-one | 5.64 mmol, 700 mg | NC1=CC(NC(=C1)C)=O | C6H8N2O
reactant | acetic acid | 8.46 mmol, 484 μl | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
product | 4-(4-Cyano-2-methoxyphenyl)-2,7-dimethyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile | C(#N)C1=CC(=C(C=C1)C1C(=C(NC=2C=C(NC(C12)=O)C)C)C#N)OC | C19H16N4O2
